US04197296
17α-Bromo-11α-N,N-dimethylamino-2β-ethoxy-5α-androstane-3α,16β-diol
A solution of 11α-N,N-dimethylamino-2β-ethoxy-5α-androst-16-en-3α-ol (1.6 g) in tetrahydrofuran (40 ml) and water (16.5 ml) containing N-bromosuccinimide (1.05 g) and 60% perchloric acid (2 ml) was kept overnight at room temperature. The reaction mixture was partitioned between ethyl acetate and potassium carbonate solution and the organic extract was washed, dried (Na2SO4) and evaporated in vacuo. Purification of the residue by preparative thin layer chromatography over silica (ethyl acetate:petroleum ether 1:1) and crystallization from ether afforded the title compound m.p. 173°-174°, [α]D -53.6°.

reactant | 11α-N,N-dimethylamino-2β-ethoxy-5α-androst-16-en-3α-ol | 1.6 g | CN(C)[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CC=C[C@@]2(C)C1)O)OCC)C | C23H39NO2
reactant | N-bromosuccinimide | 1.05 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | perchloric acid | 2 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 16.5 ml | O | H2O
product | 17α-Bromo-11α-N,N-dimethylamino-2β-ethoxy-5α-androstane-3α,16β-diol | Br[C@H]1[C@]2(C)[C@@H](C[C@@H]1O)[C@@H]1CC[C@H]3C[C@@H]([C@H](C[C@]3(C)[C@H]1[C@@H](C2)N(C)C)OCC)O | C23H40BrNO3
